US04810722
Preparation of the 2-oxo-5-isopropyloxy pyrrolidine.
To a mixture of 28.64 g of succinimide in 1200 cm3 of isopropanol cooled to -10° C., 32.8 g of sodium borohydride is added, with agitaton for 4 hours, while maintaining the temperature at -10° to 0° C. Every 15 minutes 15 drops of a 2M solution of hydrochloric acid in isopropanol is added. Operating at 0° to +2° C., the reactional mixture is then taken to pH 2-3 by the addition of a 2N solution of hydrochloric acid in isopropanol, then agitated for 2 hours at the same temperature. Neutralization is then done by the addition of a saturated solution of potassium hydroxide in isopropanol, operating at -°C. The isopropanol is evaporated off under reduced pressure, and after extracting with chloroform, filtering and evaporating off the solvent under reduced pressure, 20.5 g of the expected product is obtained, m.p. 68° to 71° C.

reactant | succinimide | 28.64 g | C1(CCC(N1)=O)=O | C4H5NO2
reactant | sodium borohydride | 32.8 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | potassium hydroxide | [OH-].[K+]
reactant | isopropanol | 1200 cm3 | C(C)(C)O | C3H8O
product | 2-oxo-5-isopropyloxy pyrrolidine | 20.5 g | O=C1NC(CC1)OC(C)C | C7H13NO2
